US07671058B2
Preparation of 4-piperidino-3-(trifluoromethyl)aniline
A mixture of 1-fluoro-4-nitro-2-(trifluoromethyl)benzene (1.05 g, 5.00 mmol), piperidine (0.592 ml, 6.00 mmol), diisopropylethylamine (1.31 ml, 7.50 mmol) and acetonitrile (10 ml) was refluxed for 8 hours. Methanol (10 ml) and 10% platinum on activated carbon (0.10 g) were added to the residue obtained by evaporation of the solvent of the reaction mixture under reduced pressure, and the mixture was stirred at room temperature for 12 hours under hydrogen atmosphere. The reaction mixture was filtered through celite. The residue obtained by concentration of the filtrate under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=1:1) to give the title compound (1.11 g, 91%) as a colorless liquid.

reactant | 1-fluoro-4-nitro-2-(trifluoromethyl)benzene | 5.00 mmol, 1.05 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | piperidine | 6.00 mmol, 0.592 ml | N1CCCCC1 | C5H11N
reactant | diisopropylethylamine | 7.50 mmol, 1.31 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | platinum on activated carbon | 0.10 g | [Pt] | Pt
solvent | Methanol | 10 ml | CO | CH4O
product | 4-piperidino-3-(trifluoromethyl)aniline | 1.11 g, 91% | N1(CCCCC1)C1=C(C=C(N)C=C1)C(F)(F)F | C12H15F3N2
